US20010014683A1
(i) Methyl 6-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}nicotinate
This was prepared from 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol and 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol and methyl 6-methylaminonicotinate in 60% yield according to a procedure similar to that described in Example 29 (i).

reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethanol | COCO[C@@H]1CN(CC1)C[C@@H](O)C1=CC=CC=C1 | C14H21NO3
reactant | 2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-2-(R)-phenylethanol | COCO[C@@H]1CN(CC1)[C@@H](CO)C1=CC=CC=C1 | C14H21NO3
reactant | methyl 6-methylaminonicotinate | CNC1=NC=C(C(=O)OC)C=C1 | C8H10N2O2
product | Methyl 6-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}nicotinate | 60% yield | COCO[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C)C1=NC=C(C(=O)OC)C=C1 | C22H29N3O4
